US04914112
To 2-ethoxalylamino-4-(1-(2-fluoro-4-biphenylyl)ethyl)thiazole (0.50 g, 1.29 mmol) in ethanol (10 ml) was added ammonia water (2 ml). After the addition, the mixture was refluxed for 2 h, evaporated under reduced pressure to a residue, which was extracted with chloroform. The extracts were dried over and evaporated under reduced pressure to residue, which was chromatographed to afford 2-oxamoylamino-4-(1-(2-fluoro-4-biphenylyl)ethyl)thiazole (0.121 g, 26% yield) as crystalline material: mp 179.0°-180.0° C.

reactant | 2-ethoxalylamino-4-(1-(2-fluoro-4-biphenylyl)ethyl)thiazole | 1.29 mmol, 0.50 g | C(=O)(C(=O)OCC)NC=1SC=C(N1)C(C)C1=CC(=C(C=C1)C1=CC=CC=C1)F | C21H19FN2O3S
reactant | ammonia water | 2 ml | O.N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-oxamoylamino-4-(1-(2-fluoro-4-biphenylyl)ethyl)thiazole | 0.121 g, 26% yield | C(C(=O)N)(=O)NC=1SC=C(N1)C(C)C1=CC(=C(C=C1)C1=CC=CC=C1)F | C19H16FN3O2S
